US07138410B2
2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(4′-fluoro-1,1′-biphenyl-4-yl)acetamide hydrochloride
In accordance with the general method, 60 mg (0.17 mmol) of 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(4-bromophenyl)acetamide hydrochloride, 23.3 mg (0.17 mmol) of 4-fluorophenylboronic acid, 0.17 ml of 2M sodium carbonate solution and 6.1 mg (0.01 mmol) of bis(diphenylphosphino)ferrocenepalladium(II) chloride are reacted in 1 ml of dimethylformamide. 32 mg (51% of theory) of the title compound are obtained.

reactant | 2-(1-azabicyclo[2.2.2]oct-3-yl)-N-(4-bromophenyl)acetamide hydrochloride | 0.17 mmol, 60 mg | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC=C(C=C2)Br
reactant | 4-fluorophenylboronic acid | 0.17 mmol, 23.3 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 0.17 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-(1-Azabicyclo[2.2.2]oct-3-yl)-N-(4′-fluoro-1,1′-biphenyl-4-yl)acetamide hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)F | InChI=1S/C21H23FN2O.ClH/c22-19-5-1-15(2-6-19)16-3-7-20(8-4-16)23-21(25)13-18-14-24-11-9-17(18)10-12-24;/h1-8,17-18H,9-14H2,(H,23,25);1H
